US06911464B2
To a solution of (1R)-2-[1-(3-ethoxy-4-methoxy-phenyl)-3-hydroxy-propyl]-7-nitro-2,3-dihydro-isoindol-1-one (4.1 g, 11 mmol), (tert-butoxy)carbonylamino (tert-butoxy)formate (3.0 g, 13 mmol), and triphenylphosphine in THF (40 mL) was added diisopropyl azodicarboxylate (2.6 mL, 13 mmol) at room temperature. After 30 min, the solvent was removed in vacuo. The residue was purified with chromatography (Silica Gel) to give (3R)-(tert-butoxy)-N-{3-(3-ethoxy-4-methoxyphenyl)-3-[7-nitro-1-oxoisoindolin-2-yl]-propyl}carbonylamino (tert-butoxy)formate (5 g, 78% yield): 1H NMR (CDCl3) δ 1.41 (s, 9H, 3CH3), 1.42 (t, J=7 Hz, 3H, CH3), 1.51 (s, 9H, 3CH3), 2.39-2.52 (m, 2H, CH2), 3.59-3.69 (m, 2H, CH2), 3.84 (s, 3H, CH3), 4.06 (q, J=7 Hz, 2H, CH2), 4.11 (d, J=16 Hz, 1H, NCHH), 4.43 (d, J=16 Hz, 1H, NCHH), 5.47 (dd, J=7, 9 Hz, 1H, NCH), 6.81 (d, J=8 Hz, 1H, Ar), 6.94-6.99 (m, 2H, Ar), 7.55-7.77 (m, 3H, Ar).

reactant | (1R)-2-[1-(3-ethoxy-4-methoxy-phenyl)-3-hydroxy-propyl]-7-nitro-2,3-dihydro-isoindol-1-one | 11 mmol, 4.1 g | C(C)OC=1C=C(C=CC1OC)[C@@H](CCO)N1C(C2=C(C=CC=C2C1)[N+](=O)[O-])=O | C20H22N2O6
reactant | (tert-butoxy)carbonylamino (tert-butoxy)formate | 13 mmol, 3.0 g | C(C)(C)(C)OC(=O)ONC(=O)OC(C)(C)C | C10H19NO5
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 13 mmol, 2.6 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | THF | 40 mL | C1CCOC1 | C4H8O
product | (3R)-(tert-butoxy)-N-{3-(3-ethoxy-4-methoxyphenyl)-3-[7-nitro-1-oxoisoindolin-2-yl]-propyl}carbonylamino (tert-butoxy)formate | 5 g, 78% yield | C(C)(C)(C)OC(=O)ON(C(=O)CC[C@@H](N1C(C2=C(C=CC=C2C1)[N+](=O)[O-])=O)C1=CC(=C(C=C1)OC)OCC)OC(C)(C)C | C30H39N3O10
